US05109012
A solution of 2,6-dichloro-4-trifluoromethylphenylhydrazine (10 g) and ethyl 2-cyano-3-ethoxyacrylate (7.0 g) in absolute ethanol (200 ml) was heated under reflux with stirring for 24 hours. Evaporation of solvent and recrystallisation from diisopropyl ether gave ethyl 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole-4-carboxylate, m.p. 131°-134°.

reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 10 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | ethyl 2-cyano-3-ethoxyacrylate | 7.0 g | C(#N)C(C(=O)OCC)=COCC | C8H11NO3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole-4-carboxylate | NC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)OCC | C13H10Cl2F3N3O2
